US06869967B2
(Z)-{4-[3-(4-Bromo-phenyl)-3-phenyl-allyloxy]-phenyl}-acetic acid methyl ester
Azodicarboxylic dipiperidide (0.756 g, 3.0 mmol) was added at 0-5° C. to a stirred solution of tributylphosphine (0.94 ml, 786 mg, 3.0 mmol), methyl 4-hydroxyphenylacetate (332 mg, 2.0 mmol) and (Z)-3-(4-bromo-phenyl)-3-phenyl-prop-2-en-1-ol (578 mg, 2.0 mmol) in dry THF (25 ml), the mixture was stirred for 1 h. The mixture was filtered and concentrated I vacuo. The residue was purified by flash chromatography on silica gel (toluene as eluent) to give 650 mg (74%) of the title compound.

reactant | tributylphosphine | 3.0 mmol, 0.94 ml, 786 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl 4-hydroxyphenylacetate | 2.0 mmol, 332 mg | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | (Z)-3-(4-bromo-phenyl)-3-phenyl-prop-2-en-1-ol | 2.0 mmol, 578 mg | BrC1=CC=C(C=C1)\C(=C/CO)\C1=CC=CC=C1 | C15H13BrO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (Z)-{4-[3-(4-Bromo-phenyl)-3-phenyl-allyloxy]-phenyl}-acetic acid methyl ester | 650 mg, 74% | COC(CC1=CC=C(C=C1)OC\C=C(\C1=CC=CC=C1)/C1=CC=C(C=C1)Br)=O | C24H21BrO3
